Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
poss endometrioma, morbid obesity, pelvic pain
 
Major Surgical or Invasive Procedure:
Robotic assisted-total laparoscopic hysterectomy, bilateral 
salpingectomy, left oophorectomy, ureterolysis, and cystoscopy

 
History of Present Illness:
It was my pleasure today to
participate in the care ___ pleasant ___ yo G0 with
menorrhagia.

Please refer to prior notes for further detail.

Prior US (no report avail to me today) notes thickened
endometrium and ov cyst, rec rpt imaging.  A repeat US was
performed ___ which notes 
- thickened endometrium, likely polyp, concern for hyperplasia,
EMS not measured
- 5.3 cm left ovarian cyst, stable from prior in ___, likely
endometrioma.

Patient underwent ___ DC with path c/w adenomyosis, placement of
Mirena IUD which expelled.  Originally planned hyst and LSO for
likely endometriosis refractory to control with IUD but then
cancelled surgery.  

In interim, has had few menses but restarted bleeding recently. 
An IUD was recently placed - she continues to have spotting,
pelvic pressure and pain.  She denies dyspareunia, pain with
urination or bowel movement - but pelvic pressure has become a
problem. 

She failed a trial of lupron - this prompted a severe 
depression.

A rpt US notes increased size of endometrioma and new onset
additional left ov cyst.  ROV remains normal.

Previously ___ had been poorly mobile but she has 
significantly
increased her mobility with the aid of rolling cane/chair.

She presents in consultation regarding surgical management of
same.

 
Past Medical History:
OBSTETRICAL HISTORY:  G0

GYNECOLOGICAL HISTORY: reports normal pap smears, no reports
available to me today, poss abn in ___ with normal thereafter
per pt report
h/o herpes per pt, no recent outbreaks

PAST MEDICAL HISTORY:
morbid obesity - BMI 51
migraines
limited mobility due to weight - patient reports neurological
disorder "unknown" and "white matter in brain"
sleep apnea on c-pap
depression
anxiety

PAST SURGICAL HISTORY:
tib/fib ___

 
Social History:
___
Family History:
no gi gu ca
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
None
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing robotic assisted-total laparoscopic 
hysterectomy, bilateral salpingectomy, left oophorectomy, 
ureterolysis, and cystoscopy. Please see the operative report 
for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and toradol. 
On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. Her diet was 
advanced without difficulty and she was transitioned to PO 
oxycodone, ibuprofen, acetaminophen.

By post-operative day #1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
albuterol [ProAir HFA], buproprion HCl, clonazepam (2mg), 
Adderall (10mg BID), fluticasone (Flovent HFA 110mcg/actuation 
aerosol inhaler)
gabapentin (600mg TID), imipramine pamoate (75mg QPM), 
norethindrone acetate (5mg BID), ondansetron HCl (4mg 
PRN),propranolol (60 mg, BID)
ibuprofen, naproxen

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
do not exceed 4000 mg in 24 hours 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg ___ 
tablet(s) by mouth every 6 hours Disp #*50 Tablet Refills:*1
2. Albuterol 0.083% Neb Soln 1 NEB IH ONCE dyspnea Duration: 1 
Dose 
3. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob 
4. BuPROPion (Sustained Release) 300 mg PO QAM 
5. Docusate Sodium 100 mg PO BID 
take if using narcotics for pain 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*50 Capsule Refills:*2
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Ibuprofen 600 mg PO Q6H:PRN pain 
take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1
8. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
do not drive while taking, use with stool softener 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*0
9. Amphetamine-Dextroamphetamine 10 mg PO DAILY 
10. Gabapentin 600 mg PO TID 
11. Propranolol 60 mg PO BID 
12. ClonazePAM 2 mg PO TID:PRN anxiety 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pelvic pain due to endometriosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance of walker at 
baseline, able to ambulate well with walker prior to discharge

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___